US07462630B2
Synthesis of t-butyl ({[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-carbonyl}amino)acetate:
475 mg (2.93 mmol) of N,N′-carbonyldiimidazole was dissolved in 10 ml of anhydrous tetrahydrofuran. 0.45 ml (3.29 mmol) of triethylamine was added to the obtained solution, and they were stirred at room temperature for 10 minutes. The reaction mixture was cooled with ice, and 460 mg (2.74 mmol) of t-butyl aminoacetate hydrochloride was added dropwise to the mixture during a period of about 10 minutes, and they were stirred at room temperature for 1 hour. After cooling with ice, 500 mg (1.83 mmol) of 4-(5H-dibenzo[a,d][7]annulen-5-ylidene)piperidine was added to the resultant mixture, and they were stirred at room temperature overnight. Water was added to the reaction mixture. After extracting with ethyl acetate followed by drying over anhydrous magnesium sulfate, the product was concentrated under reduced pressure. The residue thus obtained was purified by the silica gel chromatography (dichloromethane:methanol=95:5 to 2:3) to obtain the title compound.

reactant | triethylamine | 3.29 mmol, 0.45 ml | C(C)N(CC)CC | C6H15N
reactant | t-butyl aminoacetate hydrochloride | 2.74 mmol, 460 mg | Cl.NCC(=O)OC(C)(C)C
reactant | 4-(5H-dibenzo[a,d][7]annulen-5-ylidene)piperidine | 1.83 mmol, 500 mg | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCNCC3 | C20H19N
reactant | Water | O | H2O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | t-butyl ({[4-(5H-dibenzo[a,d][7]annulen-5-ylidene)-1-piperidinyl]-carbonyl}amino)acetate | C1=CC=CC=2C(C3=C(C=CC21)C=CC=C3)=C3CCN(CC3)C(=O)NCC(=O)OC(C)(C)C | C27H30N2O3
